US05965559
Using an analogous procedure to that described in Example 2, N-[2-amino-2-(piperidinocarbonyl)ethyl]-1-(4-pyridyl)piperidine-4-carboxamide was reacted with naphthalene-2-carbonyl chloride to give N-{1-(piperidinocarbonyl)-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-ethyl}naphthalene-2-carboxamide in 85% yield;

reactant | N-[2-amino-2-(piperidinocarbonyl)ethyl]-1-(4-pyridyl)piperidine-4-carboxamide | NC(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)N1CCCCC1 | C19H29N5O2
reactant | naphthalene-2-carbonyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | N-{1-(piperidinocarbonyl)-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-ethyl}naphthalene-2-carboxamide | 85% yield | N1(CCCCC1)C(=O)C(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C30H35N5O3
